US04620003
An aqueous Raney nickel paste (containing 0.5 g of metallic nickel) and 5.0 g of a 80% aqueous hydrazine hydrate solution were added dropwise to 200 g of an aqueous solution containing 16.2 g of 2-quinoxalinol-4-oxide and 8 g of sodium hydroxide at a temperature of 40° to 50° C., and the resulting mixture was stirred at 40° to 70° C. for 5 hr, whereby the reducing reaction was terminated. The catalyst was then recovered by filtration, and 35% hydrochloric acid was added dropwise to the filtrate at 50° to 60° C. to adjust the pH to 4. The precipitated crystal was collected by filtration, washed with water and dried to give 13.4 g (yield 92%) of 2-quinoxalinol with melting point of 268° C.

reactant | hydrazine hydrate | O.NN
reactant | 2-quinoxalinol-4-oxide | 16.2 g | N1=C(C=[N+](C2=CC=CC=C12)[O-])O | C8H6N2O2
reactant | sodium hydroxide | 8 g | [OH-].[Na+]
catalyst | Raney nickel | [Ni] | Ni
catalyst | nickel | 0.5 g | [Ni] | Ni
product | 2-quinoxalinol | 13.4 g, yield 92% | N1=C(C=NC2=CC=CC=C12)O | C8H6N2O
